US09328124B2
Racemic 6-(5-Fluoropyrimidin-2-yl)-7a-(3-pyridyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine
To a stirred solution of N-[6-(5-fluoropyrimidin-2-yl)-7a-(3-pyridyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (110 mg, 0.210 mmol) in ethanol (10 mL) are added pyridine (187 μL 2.31 mmol) and O-methylhydroxylamine hydrochloride (143 mg, 1.68 mmol). The mixture is heated at 70° C. with stirring for 17 hours. The solvent is removed under reduced pressure. The residue is purified by silica gel chromatography using a 0-10% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (62 mg, 89%). ES/MS (m/e): 331 (M+1).

reactant | N-[6-(5-fluoropyrimidin-2-yl)-7a-(3-pyridyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 0.210 mmol, 110 mg | FC=1C=NC(=NC1)N1CC2(N=C(SCC2C1)NC(C1=CC=CC=C1)=O)C=1C=NC=CC1 | C22H19FN6OS
reactant | pyridine | 2.31 mmol, 187 μL | N1=CC=CC=C1 | C5H5N
reactant | O-methylhydroxylamine hydrochloride | 1.68 mmol, 143 mg | Cl.CON
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Racemic 6-(5-Fluoropyrimidin-2-yl)-7a-(3-pyridyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 62 mg, 89% | FC=1C=NC(=NC1)N1CC2(N=C(SCC2C1)N)C=1C=NC=CC1 | C15H15FN6S
